US08912188B2
To a solution of (S)-methyl 2-(2-methyl-1H-indol-5-yl)-3-(2-methyl-4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate (150 mg, 0.30 mmol) in methanol (20 ml) was added sodium hydroxide (36 mg, 0.90 mmol) and water (1 ml) The resulting solution was stirred overnight at room temperature and the mixture was concentrated under vacuum dissolved in water (30 ml), adjusted to pH 5 with hydrochloric acid (3N) to give the precipitate, which was collected by filtration to afford (S)-2-(2-methyl-1H-indol-5-yl)-3-(2-methyl-4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid (44 mg, 30%).

reactant | (S)-methyl 2-(2-methyl-1H-indol-5-yl)-3-(2-methyl-4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate | 0.30 mmol, 150 mg | CC=1NC2=CC=C(C=C2C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CN(CC1)C1=NC=CC=C1)C)C(=O)OC | C29H28N6O2
reactant | sodium hydroxide | 0.90 mmol, 36 mg | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | (S)-2-(2-methyl-1H-indol-5-yl)-3-(2-methyl-4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylic acid | 44 mg, 30% | CC=1NC2=CC=C(C=C2C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CN(CC1)C1=NC=CC=C1)C)C(=O)O | C28H26N6O2
